US05508433
A solution of 4.87 g of (3aR, 7S, 7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7trifluoromethylsulphonyloxyperhydroisoindole in 150 cm3 of dry difluoromethane is treated with 22.6 cm3 of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran and then stirred for 17 hours at 20° C and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.2-0.063 mm, diameter 4.5 cm, height 35 cm), eluting under a nitrogen pressure of 0.4 bar with a cyclohexane and ethyl acetate mixture (75/25) and collecting fractions of 20 cm3. Fractions 28 to 38 are pooled and concentrated to dryness under reduced pressure (2.7 kPa) to give 1.44 g of (3aR, 7R,7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7-fluoroperhydroisoindole in the form of white crystals; melting point 200° C., [α]D20 =-225° C. (c=1, CHCl3).

reactant | (3aR, 7S, 7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7trifluoromethylsulphonyloxyperhydroisoindole | 4.87 g | C(C)(C)(C)OC(=O)N1C[C@@H]2[C@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)OS(=O)(=O)C(F)(F)F | C26H30F3NO5S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | difluoromethane | 150 cm3 | FCF | CH2F2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3aR, 7R,7aR)-2-t-butoxycarbonyl-4,4-diphenyl-7-fluoroperhydroisoindole | 1.44 g | C(C)(C)(C)OC(=O)N1C[C@@H]2[C@@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H30FNO2
